US07977331B1
To a solution of methyl 4-{bis[2-oxo-2-(piperidin-1-yl)ethyl]amino}-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (500 mg, 0.78 mmol) in tetrahydrofuran (2.0 ml) was added a solution (5.0 ml) of 1M BH3 THF complex in tetrahydrofuran, and the mixture was stirred at room temperature for 14 hr. 2N Hydrochloric acid was added to the reaction mixture, and the mixture was stirred at 70° C. for 4 hr. The reaction mixture was allowed to cool to room temperature, neutralized with 4N aqueous sodium hydroxide solution and saturated aqueous sodium hydrogen carbonate solution, and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (chloroform:methanol-10:1-5:1) to give methyl 4-{bis[2-(piperidin-1-yl)ethyl]amino}-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate (401 mg, yield 84%).

reactant | methyl 4-{bis[2-oxo-2-(piperidin-1-yl)ethyl]amino}-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 0.78 mmol, 500 mg | O=C(CN(C1=CC=CC=2C3=C(C4=C(N3CCOC21)C=C(C=C4)C(=O)OC)C4CCCCC4)CC(=O)N4CCCCC4)N4CCCCC4 | C38H48N4O5
reactant | Hydrochloric acid | 2N | Cl | ClH
reactant | sodium hydroxide | 4N | [OH-].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 2.0 ml | O1CCCC1 | C4H8O
product | methyl 4-{bis[2-(piperidin-1-yl)ethyl]amino}-12-cyclohexyl-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylate | 401 mg, yield 84% | N1(CCCCC1)CCN(C1=CC=CC=2C3=C(C4=C(N3CCOC21)C=C(C=C4)C(=O)OC)C4CCCCC4)CCN4CCCCC4 | C38H52N4O3
